US07988877B2
Preparation of 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate
2,2,3,3-tetrafluoropropan-1-ol (244.3 g, 1.85 mol, obtained from Sinochem Corp.), triethylamine (187.2 g, 1.85 mol, obtained from Aldrich Chemical Co.) and 500 mL of chloroform were combined in a 2-liter Parr pressure reactor and sealed. The reactor temperature was set to −10° C. Trifluoromethanesulfonyl fluoride (281.33 g, 1.85 mol, obtained from 3M Company) was added at such a rate that the temperature did not exceed −5° C. Once the addition was complete, the mix was held at −10° C. for 45 minutes. The reaction mix was then emptied and washed with 2×500 mL portions of water and 1×250 mL portion of 1N HCl. GC analysis of the reaction mixture indicated a 97 percent conversion to the product. The chloroform solvent was removed by rotary evaporation. The product was dried over anhydrous magnesium sulfate which was then filtered from the product.

reactant | 2,2,3,3-tetrafluoropropan-1-ol | 1.85 mol, 244.3 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | triethylamine | 1.85 mol, 187.2 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonyl fluoride | 1.85 mol, 3M, 281.33 g | FC(S(=O)(=O)F)(F)F | CF4O2S
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(C(F)F)(F)F)(F)F | C4H3F7O3S
